US07786132B2
(iii) (2S)-tert-Butyl 2-((2-(5-bromo-2-(2-(5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)ethylamino)pyrimidin-4-yl)benzo[b]thiophen-5-yloxy)methyl)pyrrolidine-1-carboxylate
A mixture of (2S)-tert-butyl 2-((2-(5-bromo-2-chloropyrimidin-4-yl)benzo[b]thiophen-5-yloxy)methyl)pyrrolidine-1-carboxylate (524 mg, 1.00 mmol) in toluene (25 mL) was treated with 1-(2-aminoethyl)-5,5-dimethylimidazolidine-2,4-dione (205 mg, 1.20 mmol) and triethylamine (121 mg, 1.2 mmol) and then heated to reflux in an oil bath for 3 h. The reaction was cooled to room temperature, diluted with ethyl acetate (25 mL) and washed in turn with a saturated aqueous solution of sodium bicarbonate (15 mL), deionized water (15 mL), and a saturated aqueous solution of sodium chloride (15 mL). The organic layer was separated, dried over sodium sulfate (300 mg), filtered through a coarse frit (to remove the sodium sulfate), and condensed in vacuo to give a white solid (450 mg). The crude material was purified by flash chromatography (EtOAc/hexane v/v) to yield the title compound as a white solid (325 mg, 50%). MS (M+H)+ 659/661.

reactant | (2S)-tert-butyl 2-((2-(5-bromo-2-chloropyrimidin-4-yl)benzo[b]thiophen-5-yloxy)methyl)pyrrolidine-1-carboxylate | 1.00 mmol, 524 mg | BrC=1C(=NC(=NC1)Cl)C1=CC2=C(S1)C=CC(=C2)OC[C@H]2N(CCC2)C(=O)OC(C)(C)C | C22H23BrClN3O3S
reactant | 1-(2-aminoethyl)-5,5-dimethylimidazolidine-2,4-dione | 1.20 mmol, 205 mg | NCCN1C(NC(C1(C)C)=O)=O | C7H13N3O2
reactant | triethylamine | 1.2 mmol, 121 mg | C(C)N(CC)CC | C6H15N
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | (2S)-tert-Butyl 2-((2-(5-bromo-2-(2-(5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)ethylamino)pyrimidin-4-yl)benzo[b]thiophen-5-yloxy)methyl)pyrrolidine-1-carboxylate | 450 mg | BrC=1C(=NC(=NC1)NCCN1C(NC(C1(C)C)=O)=O)C1=CC2=C(S1)C=CC(=C2)OC[C@H]2N(CCC2)C(=O)OC(C)(C)C | C29H35BrN6O5S
